US03992389
1-(2-Hydroxy-2-phenylethyl)-4-benzamidopiperidine
Sodium borohydride (6.00 g.) in 0.2N NaOH solution (60 ml.) was added dropwise to a stirred solution of 1-(2-phenyl-2-oxoethyl)-4-benzamidopiperidine (4.83 g.) in methanol (300 ml.). After refluxing the solution for 2 hours it was filtered and the filtrate concentrated to ca. 100 ml., whereupon the product crystallised out to give the title compound, m.p. 178°-180° C. (Found: C,74.1; H, 7.5; N, 8.6. C20H24N2O2 requires C, 74.0; H, 7.5; N, 8.6%).

reactant | Sodium borohydride | 6.00 g | [BH4-].[Na+]
reactant | 1-(2-phenyl-2-oxoethyl)-4-benzamidopiperidine | 4.83 g | C1(=CC=CC=C1)C(CN1CCC(CC1)NC(C1=CC=CC=C1)=O)=O | C20H22N2O2
solvent | NaOH | 0.2N, 60 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 1-(2-Hydroxy-2-phenylethyl)-4-benzamidopiperidine | OC(CN1CCC(CC1)NC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H24N2O2
